US04764514
A solution of 4-oxothiazolidine (50 g) in tetrahydrofuran (900 ml) was added dropwise to a suspension of sodium hydride (60% dispersion in mineral oil) (22.6 g) in tetrahydrofuran (850 ml) at room temperature and the mixture was allowed to warm up to reflux temperature. After the mixture was refluxed for an additional 30 minutes, ethyl bromoacetate (60 ml) was added dropwise under that condition. The mixture was refluxed further 1 hour and then cooled. Insoluble materials were removed by filtration. The filtrate was evaporated in vacuo and the residue was purified by silica gel column chromatography by eluting with chloroform to give ethyl 4-oxo-3-thiazolidinylacetate (78.5 g) as light brown powder.

reactant | 4-oxothiazolidine | 50 g | O=C1NCSC1 | C3H5NOS
reactant | sodium hydride | 22.6 g | [H-].[Na+]
reactant | ethyl bromoacetate | 60 ml | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 850 ml | O1CCCC1 | C4H8O
product | ethyl 4-oxo-3-thiazolidinylacetate | 78.5 g | O=C1N(CSC1)CC(=O)OCC | C7H11NO3S
